Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dehydration
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo/DM, HTN presenting with tachycardia. Pt reports being on 
antibiotics for a dental infection. Notes that he has been 
having difficulty eating in the setting of mouth pain, has been 
taking minimal PO liquids. Seen by PCP today where noted to be 
tachycardic to the 150s and hypotensive to the 100s/40s 
prompting evaluation in the ED. 

In ED pt noted to be in sinus tach. Given 3L ns. Also with 
elevated glucose to 400s, hyponatermia and thrush. He was given 
8unit of regular insulin and fluconazole. His HR and BP improved 
with these interventions.

On arrival to the floor pt reports feeling better. Feels 
generally weak. Denies CP, SOB. Reports that his blood sugar has 
been elevated for over a week but that the severity seen in the 
ED was likely because he had 2 apple juices at PCP office due to 
feeling dry. Does not recall name of ___ but states he 
was given it in the ED.

ROS: +as above, otherwise reviewed and negative

 
Past Medical History:
ACTINIC KERATOSIS 
DEMENTIA 
DIABETES MELLITUS 
HYPERTENSION 
MITRAL REGURGITATION 
VITAMIN D DEFICIENCY 

 
Social History:
___
Family History:
no early cad
 
Physical Exam:
ADMISSION
Vitals: T:97.8 BP:120/66 P:63 R:18 O2:100%ra  
Glucose: 191
PAIN: 0
General: nad
Lungs: clear
CV: rrr no m/r/g
Abdomen: bowel sounds present, soft, nt/nd
Ext: no e/c/c
Skin: no rash
Neuro: alert, follows commands

DISCHARGE
Vitals: T:98.8 BP:116/45 P:62 R:16 O2:100%ra  
PAIN: 0
General: nad
HEENT: edentalous upper jaw, mmm, no lesions
Lungs: clear
CV: rrr no m/r/g
Abdomen: bowel sounds present, soft, nt/nd
Ext: no e/c/c
Skin: no rash
Neuro: alert, follows commands

 
Pertinent Results:
___ 10:35AM   GLUCOSE-511* UREA N-35* CREAT-1.1 SODIUM-132* 
POTASSIUM-4.5 CHLORIDE-96 TOTAL CO2-23 ANION GAP-18
___ 10:53AM   LACTATE-2.4*
___ 11:16AM   GLUCOSE-457* LACTATE-2.0
___ 12:36PM   GLUCOSE-347* LACTATE-1.4
___ 10:35AM   WBC-10.1 RBC-5.23 HGB-15.4 HCT-48.5 MCV-93 
MCH-29.5 MCHC-31.9 RDW-12.8
___ 10:35AM   NEUTS-80.8* LYMPHS-13.5* MONOS-4.9 EOS-0.6 
BASOS-0.3
___ 10:35AM   PLT COUNT-242
___ 11:40AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 11:40AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-1000 KETONE-40 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG

CTA CHEST FINDINGS:   
The thoracic aorta is normal caliber without evidence of 
aneurysm or 
dissection. There are multiple segmental and subsegmental 
pulmonary emboli in involving the right upper, middle, and lower 
lobe pulmonary arteries. The main pulmonary artery appears 
dilated. The remainder of the great vessels have a normal 
appearance. 
CHEST: 
The thyroid is normal. There is no significant mediastinal, 
hilar, or axillary lymphadenopathy. The heart is enlarged, most 
notably the right heart. There is no significant pericardial 
effusion. 
The central airways are patent.  The lungs are clear without 
focal or diffuse abnormality. The pleural spaces are clear. 
There is no pneumothorax. 
The visualized upper abdominal structures are within normal 
limits. 
OSSEOUS STRUCTURES:  No focal lytic or sclerotic lesion 
concerning for 
malignancy. 
IMPRESSION:  
Multiple right-sided pulmonary emboli as described. 
Dilated main pulmonary artery raising concern for pulmonary 
hypertension 

 
Brief Hospital Course:
Deyhydration: complicated by hyponatremia, lactic acidosis, 
hypotension and sinus tachycardia, now improved. likely ___ poor 
po intake from oral thrush. Pt treated with nystatin swish and 
viscous lidocain for oral pain and was able to tolerate PO and 
maintain his own hydation.

Diabetes: poorly controlled. Home insulin regimen adjusted by 
___ specialist.

Acute Pulmonary Embolism: Pt became tachycardic again after 
hydration. DDimer was >4000. Pt found to have acute right sided 
PE on CTA. Started on heparin drip and tolerated for 24hrs with 
stable Hgb and no signs of bleeding. Pt transitioned to lovenox 
bridge. He recieved his first dose of coumadin on ___. He will 
need his coumadin dose adjusted to maintain a therapeutic INR.

TRANSITIONAL ISSUES:
1. Titrate coumadin to INR goal ___. Will need for 3months.
2. Monitor blood sugar, will likely require further titration of 
insulin
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Vitamin D 1000 UNIT PO DAILY 
3. 70/30 18 Units Breakfast
70/30 8 Units Dinner
4. urea 20 % topical BID 
5. Docusate Sodium 100 mg PO BID 
6. Senna 8.6 mg PO HS 
7. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Senna 8.6 mg PO HS 
4. Vitamin D 1000 UNIT PO DAILY 
5. 70/30 20 Units Breakfast
70/30 8 Units Dinner
6. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP DAILY 
7. urea 20 % topical BID 
8. Enoxaparin Sodium 60 mg SC Q12H Duration: 3 Days 
Start: ___ - ___, First Dose: Next Routine Administration 
Time 
9. Warfarin 5 mg PO DAILY16 Duration: 3 Months 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Acute pulmonary embolism
Dehydration
Oral thrush
Diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, You were admitted due to a high heart rate and 
low blood pressure. This was due in part to dehydration. You 
were also found to have a blood clot in the lungs which was 
elevating your heart rate. You were treated with fluids and 
blood thinners and your symptoms improved.
Your blood sugar was elevated during your admission. You were 
seen by the ___ diabetes specialist and your insulin regimen 
was adjusted with improvement in your blood sugar.
 
Followup Instructions:
___